US04267176
Acetic anhydride (16.6 ml.) and 98% formic acid (7.32 ml.) were mixed at room temperature and stirred at 50° to 66° C. for 30 minutes. The solution was dropwise added to a solution of ethyl 2-(6-aminopyridin-2-yl)acetate (26.5 g.) in ethyl acetate (250 ml.) at 20° to 23° C. over 30 minutes, and stirred at the same temperature for one hour. Cool water was added to the resultant solution and shaked sufficiently. The ethyl acetate layer was separated, washed with water, an aqueous solution of sodium bicarbonate and water in turn, dried and concentrated under reduced pressure to give ethyl 2-(6-formamidopyridin-2-yl)acetate (28 g.), mp 35° to 38° C.

reactant | Acetic anhydride | 16.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 7.32 ml | C(=O)O | CH2O2
reactant | ethyl 2-(6-aminopyridin-2-yl)acetate | 26.5 g | NC1=CC=CC(=N1)CC(=O)OCC | C9H12N2O2
reactant | water | O | H2O
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(6-formamidopyridin-2-yl)acetate | 28 g | C(=O)NC1=CC=CC(=N1)CC(=O)OCC | C10H12N2O3
